US05102877
To a solution of 4-acetyl-1-allyloxycarbonyl-1,2,3,6-tetrahydropyridine (1.33 g) and triethylamine (1.06 ml) in dichloromethane (50 ml) was added trimethylsilyl trifluoromethanesulfonate (2.2 ml) at 0° C. After stirring for 4 hours, a solution of (3R,4R)-4-acetoxy-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine (1.82 g) and zinc bromide (1.86 g) in ethyl acetate (10 ml) was added to the mixture, and the resultant mixture was stirred for 1 hour at 0° C. The reaction mixture was taken up into a mixture of ethyl acetate (200 ml) and water (200 ml). After adjusting pH to 4 with aqueous sodium hydrogen carbonate, the organic layer was separated, washed with brine, dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (40 g) eluting with a mixture of n-hexane and ethyl acetate (9:1-3:7, V/V) to give (3S,4R)-4-[2-(1-allyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-2-oxoethyl]-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine (1.80 g).

reactant | 4-acetyl-1-allyloxycarbonyl-1,2,3,6-tetrahydropyridine | 1.33 g | C(C)(=O)C=1CCN(CC1)C(=O)OCC=C | C11H15NO3
reactant | trimethylsilyl trifluoromethanesulfonate | 2.2 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | (3R,4R)-4-acetoxy-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine | 1.82 g | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | zinc bromide | 1.86 g | [Br-].[Zn+2].[Br-]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
solvent | triethylamine | 1.06 ml | C(C)N(CC)CC | C6H15N
product | (3S,4R)-4-[2-(1-allyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-2-oxoethyl]-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine | 1.80 g | C(C=C)OC(=O)N1CCC(=CC1)C(C[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C22H36N2O5Si
